US05892117
reacting N-methylnitrone from b) and styrene to form a 2-methyl-5-phenylisoxazolidine-containing reaction mixture.

reactant | N-methylnitrone | C[N+](=C)[O-] | C2H5NO
reactant | styrene | C=CC1=CC=CC=C1 | C8H8
product | 2-methyl-5-phenylisoxazolidine | CN1OC(CC1)C1=CC=CC=C1 | C10H13NO
